US07285558B2
2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(4-methyl-4H-1,2,4-triazol-3-yl)-5-(2-morpholin-4-ylethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made by alkylation of 2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(4-methyl-4H-1,2,4-triazol-3-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione with 4-(2-chloroethyl)morpholine following conditions in Example 6.d. 578.2 (M+H).

reactant | 2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(4-methyl-4H-1,2,4-triazol-3-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C1=NN=CN1C)=O)=O)CC(C)C | C22H21ClN8O2
reactant | 4-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
product | 2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(4-methyl-4H-1,2,4-triazol-3-yl)-5-(2-morpholin-4-ylethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=NN=CN1C)=O)CCN1CCOCC1)=O)CC(C)C | C28H32ClN9O3
